US07915297B2
After a suspension of 10.0 g of 4-furan-2-yl-2,4-dioxo-butyric ethyl ester prepared above and hydroxylamine hydrochloride was stirred at 85° C. for 2 hrs, the solvent was removed under reduced pressure. The concentrate was dissolved in a mixture of methylene chloride and distilled water, followed by separating the organic layer. The organic layer was dried over anhydrous sodium sulfate, filtered through a silica gel layer, and concentrated in vacuo to produce a yield of 8.01 g of 5-furan-2-yl-isoxazole-3-carboxylic acid ethyl ester (Yield 77%). The concentrate was used in the next step without further purification.

reactant | 4-furan-2-yl-2,4-dioxo-butyric ethyl ester | 10.0 g | C(C)OC(C(CC(=O)C=1OC=CC1)=O)=O | C10H10O5
reactant | hydroxylamine hydrochloride | Cl.NO
product | 5-furan-2-yl-isoxazole-3-carboxylic acid ethyl ester | yield of 8.01 g, Yield 77% | C(C)OC(=O)C1=NOC(=C1)C=1OC=CC1 | C10H9NO4
